US07235574B2
i) [4-(4-[1,2,3]Triazol-1-yl-butyl)-phenyl]-carbamic acid tert-butyl ester
To a solution of 10.0 g (46.2 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)-phenylamine in 100 ml THF were added at 0° C. 92.5 ml of a 1 M solution of bis-trimethylsilyl lithiumamide in THF and thereafter at room temperature a solution of 9.08 g (41.6 mmol) di-tert-butyl dicarbonate in THF. After stirring for 30 min, the mixture was quenched with ammonium chloride solution and extracted with ethyl acetate. The extract was dried, evaporated and the residue purified on silica. Elution with ethyl acetate yielded 12.0 g (82%) title compound as slightly yellow crystals.

reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenylamine | 46.2 mmol, 10.0 g | N1(N=NC=C1)CCCCC1=CC=C(C=C1)N | C12H16N4
reactant | di-tert-butyl dicarbonate | 41.6 mmol, 9.08 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | [4-(4-[1,2,3]Triazol-1-yl-butyl)-phenyl]-carbamic acid tert-butyl ester | 12.0 g, 82% | C(C)(C)(C)OC(NC1=CC=C(C=C1)CCCCN1N=NC=C1)=O | C17H24N4O2
